US07465808B2
F. (3aS,8aR)-3-(2-m-Tolyl-acetyl)-3,3a,8,8a-tetrahydro-indeno[1,2-d]oxazol-2-one
To a stirred solution of m-tolylacetic acid (8.57 g, 0.0571 mol), 2-chloro-1-methylpyridinium iodide (19.0 g, 0.0744 mol) and (3aS-cis)-(−)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]-oxazol-2-one (10.0 g, 0.0571 mol) in CH2Cl2 (130 mL) were added TEA (18.0 mL, 0.129 mol) and 4-dimethylaminopyridine (DMAP, 1.39 g, 0.0114 mol) at 0° C. The reaction mixture was stirred at rt for 3 h then treated with hexane (130 mL). The resulting slurry was passed through a pad of silica gel, eluting with 3:2 EtOAc/hexane. The filtrate was concentrated to an oil and recrystallized in hot hexane to recover 13 g (74%) of the title compound as a white solid. HPLC: Rt=9.85 (Method E). MS (ES+): mass calculated for C19H17NO3, 307.36; m/z found 330.2 [M+Na]+. 1H NMR (400 MHz, CDCl3): 7.65 (d, J=7.6 Hz, 1H), 7.08-7.37 (m, 7H), 5.95 (d, J=6.8 Hz, 1H), 5.27-5.31 (m, 1H), 4.26 (dd, J=15.9, 39.1 Hz, 2H), 3.40 (d, J=3.5 Hz, 2H), 2.34 (s, 3H).

reactant | m-tolylacetic acid | 0.0571 mol, 8.57 g | C1(=CC(=CC=C1)CC(=O)O)C | C9H10O2
reactant | 2-chloro-1-methylpyridinium iodide | 0.0744 mol, 19.0 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | (3aS-cis)-(−)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]-oxazol-2-one | 0.0571 mol, 10.0 g | O1C(N[C@@H]2[C@H]1CC=1C=CC=CC12)=O | C10H9NO2
reactant | hexane | 130 mL | CCCCCC | C6H14
solvent | CH2Cl2 | 130 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0114 mol, 1.39 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (3aS,8aR)-3-(2-m-Tolyl-acetyl)-3,3a,8,8a-tetrahydro-indeno[1,2-d]oxazol-2-one | C1(=CC(=CC=C1)CC(=O)N1C(O[C@H]2[C@@H]1C=1C=CC=CC1C2)=O)C | C19H17NO3
